* Z:\home\nailsonchagas\Downloads\EEG\canal\canal.asc
XU1 EletrodoA EletrodoB V+ V- InAmp 0 N001 N002 INA823
R3 0 EletrodoA 100k
R4 0 EletrodoB 100k
V5 V+ 0 3.3
V6 0 V- 3.3
C1 V+ 0 1µ
C2 V- 0 1µ
R1 N001 N002 1.01k
V1 EletrodoA EletrodoB SINE(0 800u 160) AC 800u
* G = 1 + (100k / Rg) p/ G = 100 Rg = 1.01k
* AMPLIFICADOR DE INSTRUMENTAÇÃO
.ac oct 100000 1 10000000
.lib Z:\home\nailsonchagas\Downloads\EEG\canal\INA823.LIB
.backanno
.end
